US08134001B2
Preparation of intermediate 1-(2-iodo-5-bromo-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene
To dry tetrahydrofuran (120 mL) was added a solution of LiHMDS (42 mmol, 42 ml) in THF under argon at room temperature, followed by the addition of 5-bromo-2-iodo-benzaldehyde (13 g, 42 mmol). After the mixture was stirred at room temperature for 0.5 h, trimethylsilyl chloride (5.32 mL, 42 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (7.6 mL, 54.4 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (3.9 mL, 54.4 mmol) in diethyl ether (200 mL). The cooling bath was removed, and the mixture was stirred at room temperature for 1 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give the title compound as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 42 mmol, 42 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-bromo-2-iodo-benzaldehyde | 42 mmol, 13 g | BrC=1C=CC(=C(C=O)C1)I | C7H4BrIO
reactant | trimethylsilyl chloride | 42 mmol, 5.32 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 54.4 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 54.4 mmol, 3.9 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 1-(2-iodo-5-bromo-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | IC1=C(C=C(C=C1)Br)C=NC(=C)O[Si](C)(C)C | C12H15BrINOSi
